US06962914B2
5-Chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine (1.0 g, 3.86 mmol) was treated with N,N-dimethylformamide (20 mL) and phosphorous oxychloride (0.54 mL, 7.8 mmol) as described in Example 12 to give 5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde as a white crystalline solid, (0.9 g, 81%). 1H NMR (CDCl3): δ 10.12 (s, 1H), 8.52 (d, 1H), 8.47 (d, 1H), 7.76 (d, 2H), 7.11-7.06 (m, 3H), 3.93 (s, 3H); MS m/z 287 (M+1).

reactant | 5-Chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine | 3.86 mmol, 1.0 g | ClC1=CC=2N(C=C1)N=C(C2)C2=CC=C(C=C2)OC | C14H11ClN2O
reactant | phosphorous oxychloride | 7.8 mmol, 0.54 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | ClC1=CC=2N(C=C1)N=C(C2C=O)C2=CC=C(C=C2)OC | C15H11ClN2O2
